US08207164B2
g) [5-(3-Bromo-phenyl)-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
To a solution of 5-(3-bromo-phenyl)-5-fluoromethyl-morpholine-3-thione (200 mg, 0.658 mmol) in 5 ml of 7M NH3/MeOH were added t-butyl hydroperoxide (80%, 0.818 ml, 6.58 mmol) and then 1.7 ml of 25% aqueous NH4OH. After 2 h, the mixture was quenched with a saturated aqueous solution of Na2S2O3 and extracted with EtOAc. The extract was washed with brine, dried with sodium sulfate and evaporated. The crude 5-(3-bromo-phenyl)-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (189 mg, 0.658 mmol) was dissolved in 4 ml of dichloromethane. The solution was treated with DIPEA (0.172 ml, 0.987 mmol) and Boc2O (187 mg, 0.855 mmol). After 14 h, the mixture was diluted with dichloromethane and washed with water, 1N HCl and brine. The organic phase was dried with sodium sulfate and evaporated. The residue was chromatographed on silica gel (cyclohexane/EtOAc=6:1) to yield the title compound. TLC (hexane/EtOAc=6:1): Rf=0.20; HPLC: RtH1=2.380 min; 1H-NMR (400 MHz, CDCl3): 7.56-6.98 (m, 4H; broad signals due to rotamers), 4.80-3.60 (m, 6H), 1.42 (br, 9H); MS: 387, 389 [(M+H)+].

reactant | 5-(3-bromo-phenyl)-5-fluoromethyl-morpholine-3-thione | 0.658 mmol, 200 mg | BrC=1C=C(C=CC1)C1(COCC(N1)=S)CF | C11H11BrFNOS
reactant | t-butyl hydroperoxide | 6.58 mmol, 0.818 ml | C(C)(C)(C)OO | C4H10O2
reactant | NH4OH | 1.7 ml | [NH4+].[OH-]
reactant | 5-(3-bromo-phenyl)-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 0.658 mmol, 189 mg | BrC=1C=C(C=CC1)C1(N=C(COC1)N)CF | C11H12BrFN2O
reactant | DIPEA | 0.987 mmol, 0.172 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 0.855 mmol, 187 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NH3 MeOH | 7M, 5 ml | N.CO
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | [5-(3-Bromo-phenyl)-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(CF)C1=CC(=CC=C1)Br)=O | C16H20BrFN2O3
